US07947715B2
Step 9: Production of N-[1-[2-chloro-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]phenyl]ethyl]phthalimide
In a solution of 0.88 g of 3-[3-chloro-4-(1-chloroethyl)phenyl]-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole in 5 mL of N,N-dimethylformamide, 0.36 g of potassium phthalimide was added, and stirred at 100° C. for 1.5 hour. After the completion of the reaction, the reaction mixture was left and cooled to room temperature, and diluted with 20 mL of ethyl acetate, washed with water (10 mL×3), and then dehydrated with and dried over saturated sodium chloride aqueous solution and anhydrous magnesium sulfate in that order, and the solvent was distilled off under reduced pressure. The residue was purified with medium pressure preparative liquid chromatography (medium pressure collection apparatus: YFLC-Wprep manufactured by Yamazen Corporation) that was eluted with ethyl acetate-hexane (gradient of 1:10 to 1:3) to obtain 0.45 g of the aimed product as pale yellow resinous substance.

reactant | 3-[3-chloro-4-(1-chloroethyl)phenyl]-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole | 0.88 g | ClC=1C=C(C=CC1C(C)Cl)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C18H12Cl4F3NO
reactant | potassium phthalimide | 0.36 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N-[1-[2-chloro-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]phenyl]ethyl]phthalimide | 0.45 g | ClC1=C(C=CC(=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C(C)N1C(C=2C(C1=O)=CC=CC2)=O | C26H16Cl3F3N2O3
